US07223788B2
4-Propoxymethylbenzoic Acid
Sodium hydride (50% in oil; 0.42 g) was cautiously added to a solution of propanol (0.6 g) in DMF (8 ml). After gas evolution ceased, methyl 4-bromomethylbenzoate (1.0 g) was added. After 4 hours, the mixture was partitioned between water and ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. The residue was hydrolyzed by method P-a. This resulted in the product with the molecular weight of 194.23 (C11H14O3); MS (ESI): 195 (M+H+).

reactant | Sodium hydride | 0.42 g | [H-].[Na+]
reactant | propanol | 0.6 g | C(CC)O | C3H8O
reactant | methyl 4-bromomethylbenzoate | 1.0 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-Propoxymethylbenzoic Acid | C(CC)OCC1=CC=C(C(=O)O)C=C1 | C11H14O3
